US07071182B2
1-(2-piperidin-1-yl-ethyl)-1H-indazol-5-ylamine
A mixture of 5-nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole (4.3 g, 16 mmol), iron powder (8.8 g, 157 mmol), and ammonium chloride (430 mg, 8 mmol) in a 4:1 ethanol/H2O solution (75 mL) was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was stirred in triethylamine/ethyl acetate (1/4, 50 mL) for 15 minutes, filtered through a plug of silica gel which was rinsed with triethylamine/ethyl acetate (1/4). The filtrate was concentrated under reduced pressure to provide the title compound (3.4 g, 93%). 1H NMR (300 MHz, DMSO-d6) ppm 1.34–1.45 (m, 6H), 2.36 (m, 4H), 2.64 (t, J=6.44, 2H), 4.35 (t, J=6.44, 2H), 4.76 (s, 2H), 6.71 (m, 1H), 6.79 (m, 11H), 7.35 (m, 1H), 7.67 (m, 1H); MS (DCI/NH3) m/z 245 [M+H]+.

reactant | 5-nitro-1-(2-piperidin-1-yl-ethyl)-1H-indazole | 16 mmol, 4.3 g | [N+](=O)([O-])C=1C=C2C=NN(C2=CC1)CCN1CCCCC1 | C14H18N4O2
reactant | ammonium chloride | 8 mmol, 430 mg | [Cl-].[NH4+]
catalyst | iron | 157 mmol, 8.8 g | [Fe] | Fe
solvent | ethanol H2O | 75 mL | C(C)O.O
product | 1-(2-piperidin-1-yl-ethyl)-1H-indazol-5-ylamine | 3.4 g, 93% | N1(CCCCC1)CCN1N=CC2=CC(=CC=C12)N | C14H20N4
